US08859541B2
E2c) 3-[6-[2-[(2-methylpropan-2-yl)oxycarbonylamino]propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]benzoic acid
A mixture of tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate C2d (40 mg, 0.09 mmol), 3-boronobenzoic acid (18 mg, 0.11 mmol), Dichlorobis(triphenylphosphine)palladium(II) (6.3 mg, 0.01 mmol), Na2CO3 (19 mg, 0.18 mmol), dioxane (0.9 ml), MeOH (0.2 ml) and water (0.1 ml) is stirred under argon atmosphere for 4 h at 70° C. The reaction mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 16 mg (37%). HPLC-MS: M+H=486; tR=1.49 min (*Method—5).

reactant | tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=C(C=C1)Br)C#CC1=CC=CC=C1)C)=O | C21H22BrN3O3
reactant | 3-boronobenzoic acid | 0.11 mmol, 18 mg | B(O)(O)C=1C=C(C(=O)O)C=CC1 | C7H7BO4
reactant | Na2CO3 | 0.18 mmol, 19 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 0.9 ml | O1CCOCC1 | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.01 mmol, 6.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.1 ml | O | H2O
solvent | MeOH | 0.2 ml | CO | CH4O
product | 3-[6-[2-[(2-methylpropan-2-yl)oxycarbonylamino]propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]benzoic acid | CC(C)(C)OC(=O)NC(C(=O)NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1)C | C28H27N3O5
